US04518596
8-(2-Diethylamino-ethylthio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-8-(2-diethylamino-ethylthio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine (resin) and piperazine.

reactant | 2-chloro-8-(2-diethylamino-ethylthio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCCN(CC)CC)N2CCOCC2 | C16H23ClN6OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(2-Diethylamino-ethylthio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C)N(CCSC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2)CC | C20H32N8OS
